US03996374
Meanwhile, in a second flask, 4.6 g. of sodium are dissolved in 100 ml. of ethanol and treated at 0° C. with 34.5 g. of 2-diethylaminoethyl chloride hydrochloride. After dilution with 50 ml. of dimethylformamide and stirring for 30-40 minutes in an ice-bath, the obtained fine suspension is added dropwise at 0°-2° C. over a period of 15-20 minutes to the sodium derivative of 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester prepared as in the foregoing paragraph. The mixture is subsequently stirred for 30 minutes at room temperature and then heated at 60° C. for 3 hours. After cooling, the mixture is poured into 4 liters of ice-water, 200 g. of sodium chloride are added and the separated oily product is immediately extracted with methylene chloride. The organic phase, shielded from daylight, is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The resulting oil is then taken up in 200 ml. of ether, treated with 280 ml. of 0.5-N hydrochloric acid and thoroughly shaken. After cooling in an ice-bath, the crystallized hydrochloride is removed by filtration under suction, washed with water and ether and then dissolved in 700 ml. of methylene chloride. The aqueous layer is separated; the organic phase is dried over sodium sulfate, filtered and treated portionwise with 450 ml. of ether, whereby there is obtained 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride in the form of colorless crystals having a melting point of 248°-250° C. (decomposition). Crystallization from methylene chloride/ether does not increase the melting point.

reactant | sodium | [Na] | Na
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C17H14ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCN(CC)CC | InChI=1S/C23H27ClN2O2.ClH/c1-4-25(5-2)14-15-26-21(17-10-8-7-9-11-17)20-16-18(24)12-13-19(20)22(26)23(27)28-6-3;/h7-13,16H,4-6,14-15H2,1-3H3;1H
